US20010049441A1
1-(4-Fluorobenzenesulfonyl)-3-(1-methyl-1,2,3,6-tetrahydro4-pyridinyl)-7-azaindole;
(21.1 mg, 48%); from 3-(1-methyl-1,2,3,6-tetrahydro4-pyridinyl)-1H-7-azaindole (24.9 mg, 0.12 mmol) and 4-fluorobenzenesulfonyl chloride (47 mg, 0.24 mmol); HRMS-FAB+ for C19H18N3O2SF: calculated MH+:372.11819; found:372.11690.

reactant | 3-(1-methyl-1,2,3,6-tetrahydro4-pyridinyl)-1H-7-azaindole | 0.12 mmol, 24.9 mg | CN1CCC(=CC1)C1=CNC2=NC=CC=C12 | C13H15N3
reactant | 4-fluorobenzenesulfonyl chloride | 0.24 mmol, 47 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 1-(4-Fluorobenzenesulfonyl)-3-(1-methyl-1,2,3,6-tetrahydro4-pyridinyl)-7-azaindole | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CN=C12)C=1CCN(CC1)C | C19H18FN3O2S
